US06914159B1
1.30 g (11 mmol) of thionyl chloride was added to 1.96 g (10 mmol, 1.0 eq.) of (2-ethoxy-phenoxy)acetic acid. The mixture was heated under reflux for 30 minutes and distilled under reduced pressure to obtain (2-ethoxy-phenoxy)acetyl chloride. 20 ml of THF and 2.78 ml (20 mmol, 2.0 eq.) of triethylamine were added to 2.44 g (10 mmol, 1.0 eq.) of (R)-(-)-5-[(2-amino-2-methyl)ethyl]-2-methoxybenzene sulfonamide and the reaction solution was cooled down to 0° C. The obtained (2-ethoxy-phenoxy)acetyl chloride was added dropwise thereto and the whole mixture was stirred for 1 hour. The formed solids were filtered, and the filtrate was distilled under reduced pressure and extracted with 40 ml of ethyl acetate. Subsequently, the extract was washed with 1 N HCl, a saturated aqueous solution of sodium bicarbonate and brine, and dried over magnesium sulfate and then, filtered. The filtrate was distilled under reduced pressure to obtain 3.80 g (yield: 90%) of 2-(2-ethoxy-phenoxy)-N-[2-(4-methoxy-3-sulfamoyl-phenyl)-1-methyl-ethyl]-acetamide.

reactant | thionyl chloride | 11 mmol, 1.30 g | S(=O)(Cl)Cl | Cl2OS
reactant | (2-ethoxy-phenoxy)acetic acid | 10 mmol, 1.96 g, 1.0 eq. | C(C)OC1=C(OCC(=O)O)C=CC=C1 | C10H12O4
product | (2-ethoxy-phenoxy)acetyl chloride | C(C)OC1=C(OCC(=O)Cl)C=CC=C1 | C10H11ClO3
